US05300524
To a stirred solution of 3-bromopyridine (4.09 g, 26 mmol), 4-pentyn-1-ol (2.58 g, 31 mmol) and triethylamine (12 ml) in anhydrous DCM (20 ml) was added bis(triphenylphosphine)-palladium dichloride (0.05 g, 0.07 mmol) and copper(I) iodide (0.05 g, 0.26 mmol). The mixture was refluxed for 20 h under argon. After cooling, water (20 ml) was added and the products extracted into DCM. The combined organic extracts were washed with saturated potassium carbonate (50 ml) dried over anhydrous magnesium sulphate, filtered and evaporated to provide a brown oil. Column chromatography (flash silica gel, ethyl acetate) gave 5-(3-pyridyl)-1-pent-4-ynol (0.37 g, 7%) as a colourless oil.

reactant | 3-bromopyridine | 26 mmol, 4.09 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | 4-pentyn-1-ol | 31 mmol, 2.58 g | C(CCC#C)O | C5H8O
reactant | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
reactant | water | 20 ml | O | H2O
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | bis(triphenylphosphine)-palladium dichloride | 0.07 mmol, 0.05 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.26 mmol, 0.05 g | [Cu]I
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(3-pyridyl)-1-pent-4-ynol | 0.37 g, 7% | N1=CC(=CC=C1)C#CCCCO | C10H11NO
